Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Hand and Abdomen pain
 
Major Surgical or Invasive Procedure:
___: Diagnostic laparoscopy, Removal of foreign body from RUQ

 
History of Present Illness:
___ year old male transferred to the trauma
service from OSH with a + FAST after dropping his gun with an
accidental discharge resulting in an injury to his right hand 
and
abdomen.  He is being taken emergently to the OR by trauma
surgery for diagnostic laparotomy.  he is comfortable and 
reports
appropriate pain.  He denies an decreased sensation in the right
hand and reports ROM only limited by pain.  There is a history 
of
surgery to the ___ digit.

ROS: as mentioned in the HPI, and otherwise negative in the
following systems: constitutional, skin, heme, lymphatic,
neurological, psychiatric, HEENT, pulmonary, cardiac,
gastrointestinal, genitourinary, musculoskeletal, endocrine, and
allergic/immune.

 
Social History:
___
Family History:
non contributory
 
Physical Exam:
Vital Signs: Afebrile, Hemodynamically normal
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: regular rate, No M/G/R
PULM: breathing comfortably on room air, no audible wheezing
ABD: Soft, appropriately tender, non distended, incision on 
abdomen without any active bleeding  and two interrupted 
sutures. dermabond over midline incision. incisions well 
approximated without erythema, fluctuance, or drainage
Ext: No ___ edema, ___ warm and well perfused. Right hand covered
with dressing C/D/I 
 
Pertinent Results:
___ 05:49AM BLOOD WBC-14.3* RBC-4.91 Hgb-14.7 Hct-44.0 
MCV-90 MCH-29.9 MCHC-33.4 RDW-13.6 RDWSD-44.3 Plt ___
___ 01:42AM BLOOD Neuts-66.7 ___ Monos-7.9 Eos-4.4 
Baso-1.2* Im ___ AbsNeut-5.55 AbsLymp-1.58 AbsMono-0.66 
AbsEos-0.37 AbsBaso-0.10*
___ 05:49AM BLOOD Glucose-188* UreaN-11 Creat-0.7 Na-140 
K-4.8 Cl-106 HCO3-18* AnGap-16
___ 05:49AM BLOOD Calcium-8.6 Phos-2.0* Mg-1.7

Abd XR: Multiple radiopaque particles project over the right 
lower abdominal wall and right iliac wing measuring up to 5 mm 

Chest XR: No acute intrathoracic findings.  No large 
pneumothorax.

Hand XR: No fracture or dislocation is seen.  There are no 
significant degenerative changes.  No bone erosion or 
periostitis is identified. No suspicious lytic or sclerotic 
lesion is identified.  Surgical plate and screws are seen in the 
fourth mid phalanx with callus formation.  Tiny radiopaque 
particles project over the wrist and fourth finger, and could 
represent particles from bullet. 
  
IMPRESSION:  Tiny radiopaque particles project over the wrist 
and fourth finger, could 
represent particles from bullet. 

 
Brief Hospital Course:
Mr. ___ was admitted on ___ in the morning after gunshot wound 
through his hand and into his pre-fascial abdomen. He underwent 
Diagnostic laparoscopy, Removal of foreign body from RUQ, which 
was uncomplicated. Hand surgery was consulted and they clean up 
and wrapped up his left wrist, with a plan to follow up with his 
hand surgeon on the ___ this upcoming week. His pain was 
controlled, he was tolerating a regular diet, and was deemed 
appropriate for discharge. he will follow up in ___ clinic in 
___ weeks for suture removal as well as in hand surgery clinic 
within the week. he was in agreement with this plan and 
understands to give our office a call if he has any questions or 
concerns. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 1000 mg PO BID 
2. Pravastatin 40 mg PO QPM 
3. GlipiZIDE 5 mg PO DAILY 
4. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation ASDIR 
5. Lisinopril 5 mg PO DAILY 
6. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  TraMADol 50 mg PO Q6H:PRN BREAKTHROUGH PAIN 
RX *tramadol 50 mg ___ tablet(s) by mouth every six (6) hours 
Disp #*10 Tablet Refills:*0 
3.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing  
4.  GlipiZIDE 5 mg PO DAILY  
5.  Lisinopril 5 mg PO DAILY  
6.  MetFORMIN (Glucophage) 1000 mg PO BID  
7.  Pravastatin 40 mg PO QPM  
8.  Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation ASDIR  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gun Shot Wound

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___

You were admitted to ___ and 
underwent surgery secondary to your gun shot wound. You are 
recovering well and are now ready for discharge. Please follow 
the instructions below to continue your recovery: 

HAND:

1. follow up with your hand surgeon in the ___ NEXT WEEK
check. 
2. hand elevation
3. hand ROM exercises

Abdomen:
1. Your sutures are non-absorbable and should come out in 
clinic. Call ___ to make an appointment in the next ___ 
weeks with Dr. ___

___ INCISION:
-Tomorrow you may shower and remove the gauzes over your 
incisions. 
If your incisions are closed with dermabond (surgical glue), 
this will fall off on it's own in ___ days. 
-Your incisions may be slightly red. This is normal.
 -You may gently wash away dried material around your incision. 
-Avoid direct sun exposure to the incision area. 
-Do not use any ointments on the incision unless you were told 
otherwise. 
-You may see a small amount of clear or light red fluid staining 
your dressing or clothes. If the staining is severe, please call 
your surgeon. 
-You may shower. As noted above, ask your doctor when you may 
resume tub baths or swimming. 

YOUR BOWELS: -Constipation is a common side effect of narcotic 
pain medications. If needed, you may take a stool softener (such 
as Colace, one capsule) or gentle laxative (such as milk of 
magnesia, 1 tbs) twice a day. You can get both of these 
medicines without a prescription. -If you go 48 hours without a 
bowel movement, or have pain moving the bowels, call your 
surgeon. 

PAIN MANAGEMENT: -It is normal to feel some discomfort/pain 
following abdominal surgery. This pain is often described as 
"soreness". -Your pain should get better day by day. If you find 
the pain is getting worse instead of better, please contact your 
surgeon.

General Surgery: Please call your doctor or nurse practitioner 
or return to the Emergency Department for any of the following: 
*You experience new chest pain, pressure, squeezing or 
tightness. 
*New or worsening cough, shortness of breath, or wheeze. 
*If you are vomiting and cannot keep down fluids or your 
medications. 
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing. 
*You see blood or dark/black material when you vomit or have a 
bowel movement. 
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge. 
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back. 
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius. 
*Any change in your symptoms, or any new symptoms that concern 
you. Please resume all regular home medications, unless 
specifically advised not to take a particular medication.

Warm regards, Your ___ Surgery Team 

 
Followup Instructions:
___